US06916804B2
N-(6-Chloro-2-phenylpyrimidin-4-yl)-2-{4-[(2E)-3-phenylprop-2-enyl]piperazin-1-yl}acetamide (22.54).
To a stirred solution of 2-bromo-N-(6-chloro-2-phenylpyrimidin-4-yl)acetamide (0.80 g in 40 ml acetonitrile) was added [(2E)-3-phenylprop-2-enyl]piperazine (0.50 g in 10 ml acetonitrile). After 3 hrs, N,N-diisopropylethylamine was added (428 μl in 10 ml acetonitrile) and the reaction stirred for a further 2 hrs after which time a precipitate of the title compound appeared. This was used crude in the next step. m/z (ES+) 448 (MH)+

reactant | 2-bromo-N-(6-chloro-2-phenylpyrimidin-4-yl)acetamide | 40 ml, 0.80 g | BrCC(=O)NC1=NC(=NC(=C1)Cl)C1=CC=CC=C1 | C12H9BrClN3O
reactant | [(2E)-3-phenylprop-2-enyl]piperazine | 10 ml, 0.50 g | C1(=CC=CC=C1)/C=C/CN1CCNCC1 | C13H18N2
reactant | N,N-diisopropylethylamine | C(C)(C)N(C(C)C)CC | C8H19N
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | N-(6-Chloro-2-phenylpyrimidin-4-yl)-2-{4-[(2E)-3-phenylprop-2-enyl]piperazin-1-yl}acetamide | ClC1=CC(=NC(=N1)C1=CC=CC=C1)NC(CN1CCN(CC1)C\C=C\C1=CC=CC=C1)=O | C25H26ClN5O
